US07037905B2
2-(3-Fluorophenyl)-[1,3,6,2]dioxazaborocane
The title compound (79%, crystals) was prepared from 3-fluorophenylboronic acid and diethanolamin.

reactant | 3-fluorophenylboronic acid | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | diethanolamin | N(CCO)CCO | C4H11NO2
product | 2-(3-Fluorophenyl)-[1,3,6,2]dioxazaborocane | 79% | FC=1C=C(C=CC1)B1OCCNCCO1 | C10H13BFNO2
